US08497368B2
4,6-Difluoro-1-methyl-1H-indazole (Intermediate K)
N-Methyl-N′-[1-(2,4,6-trifluoro-phenyl)-meth-(E)-ylidene]-hydrazine (3.85 g, 20.46 mmol) was heated in a seal tube at 210° C. for 2 hours. After cooled to room temperature, the black residue was dissolved in DCM and purified on flash chromatography (EtOAc:Hexane 10:90) to give the title compound as a light yellow crystal (1.926 g, 56%). 1H-NMR (400 MHz, MeOH-d4) δ ppm 8.05 (s, 1H); 7.16 (d, 1H); 6.75 (t, 1H); 3.32 (s, 3H). LCMS (method B): [MH]+=169, tR=2.28 min.

reactant | N-Methyl-N′-[1-(2,4,6-trifluoro-phenyl)-meth-(E)-ylidene]-hydrazine | 20.46 mmol, 3.85 g | CN/N=C/C1=C(C=C(C=C1F)F)F | C8H7F3N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4,6-Difluoro-1-methyl-1H-indazole | 1.926 g, 56% | FC1=C2C=NN(C2=CC(=C1)F)C | C8H6F2N2
